US06440995B1
4-Chloro-2-(4-chloro-phenyl)-7-methoxy-quinoline
The title compound, m. p. 153-155° C., MS: m/e=305 (M+H+), was prepared from 4-chloro-7-methoxy-quinoline and 1-bromo-4-chlorobenzene.

reactant | 4-chloro-7-methoxy-quinoline | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 1-bromo-4-chlorobenzene | BrC1=CC=C(C=C1)Cl | C6H4BrCl
product | 4-Chloro-2-(4-chloro-phenyl)-7-methoxy-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)Cl | C16H11Cl2NO
